US04198511
1,5-Dihydro-1,5-dioxo-4H-1-benzopyrano[3,4-b]pyridine-3-carboxylic acid, methyl ester
A solution of 2-[(2-oxo-2H-1-benzopyran-3-yl)amino]-2-butenedioic acid, dimethyl ester (3.0 g, 0.0099 mole) in diphenyl ether (50 ml) is heated at 274-285 for 60 minutes under nitrogen. The reaction mixture is cooled and diluted with hexane. The product is filtered off and washed with ethyl acetate. Recrystallization from dimethyl formamide gives white crystals (2.51 g, 93%), mp 225-227.

reactant | 2-[(2-oxo-2H-1-benzopyran-3-yl)amino]-2-butenedioic acid, dimethyl ester | 0.0099 mole, 3.0 g | O=C1OC2=C(C=C1NC(C(=O)OC)=CC(=O)OC)C=CC=C2 | C15H13NO6
solvent | diphenyl ether | 50 ml | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
solvent | hexane | CCCCCC | C6H14
product | 1,5-Dihydro-1,5-dioxo-4H-1-benzopyrano[3,4-b]pyridine-3-carboxylic acid, methyl ester | 2.51 g, 93% | O=C1C2=C(NC(=C1)C(=O)OC)C(OC1=C2C=CC=C1)=O | C14H9NO5
